US04287201
Reaction of the 2-ethenyl-m-anisidine with 2-chloro-imidazoline by the method described in Example 2 gives a 47% yield of 2-(2-ethenyl-3-methoxyphenylimino)imidazolidine, m.p. 125.5°-126° C.

reactant | 2-ethenyl-m-anisidine | C(=C)C1=C(OC)C=CC=C1N | C9H11NO
reactant | 2-chloro-imidazoline | ClC=1NCCN1 | C3H5ClN2
product | 2-(2-ethenyl-3-methoxyphenylimino)imidazolidine | 47% yield | C(=C)C1=C(C=CC=C1OC)N=C1NCCN1 | C12H15N3O
